US07910602B2
5-Hydroxy-1-methyl-1H-indole-3-carbaldehyde (I-2)
To a solution of 5-Methoxy-1-methyl-1H-indole-3-carbaldehyde (4.5 g, 23.8 mmol, in 150 ml DCM) was added BBr3 solution (2 M in DCM, 60 ml, 5 eq) at −10° C. with stirring for 5 min. The cooling bath was removed and the reaction mixture was slowly warmed up to r.t. The reaction was monitored by TLC (2% MeOH in DCM) and LCMS (after 3.5 h, no starting material remained). The reaction mixture was then cooled to −10° C., and 16 ml of MeOH were slowly added. The pH of mixture was adjusted to 8 by adding sat. NaHCO3 and/or 4 N NaOH. The organic solvents were removed under reduced pressure and the remaining aqueous mixture was extracted with ethyl acetate (30 ml×5). The organic layers were combined, washed with brine (10 ml×1), dried over Mg2SO4, filtered and dried under reduced pressure to give the title compound as 4.06 g purple powder (yield: 97%) that was used without further purification. LCMS (2-85% ACN/H2O in 7 min): 176.1 (40%). Rf 0.11 (2% MeOH in DCM).

reactant | 5-Methoxy-1-methyl-1H-indole-3-carbaldehyde | 23.8 mmol, 150 ml, 4.5 g | COC=1C=C2C(=CN(C2=CC1)C)C=O | C11H11NO2
reactant | BBr3 | 2 M, 60 ml, 5 eq | B(Br)(Br)Br | BBr3
product | 5-Hydroxy-1-methyl-1H-indole-3-carbaldehyde | OC=1C=C2C(=CN(C2=CC1)C)C=O | C10H9NO2
